US07700589B2
N-[1-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethylamino}-1-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-meth-(Z)-ylidene]-cyanamide
Prepared analogously to Example 73 from 3-piperidin-4-yl-1,3,4,5-tetrahydrobenzo[d][1,3]diazepin-2-one and (R)-2-amino-3-(3,4-diethyl-phenyl)-1-[4-(4-methylpiperazin-1-yl)-piperidin-1-yl]-propan-1-one

reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydrobenzo[d][1,3]diazepin-2-one | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
reactant | (R)-2-amino-3-(3,4-diethyl-phenyl)-1-[4-(4-methylpiperazin-1-yl)-piperidin-1-yl]-propan-1-one | N[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)CC1=CC(=C(C=C1)CC)CC | C23H38N4O
product | N-[1-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethylamino}-1-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-meth-(Z)-ylidene]-cyanamide | C(C)C=1C=C(C[C@H](C(=O)N2CCC(CC2)N2CCN(CC2)C)N/C(/N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=N/C#N)C=CC1CC | C39H55N9O2
